US05942459
To 52.5 g of 3-(2-bromophenyl)-2-methylpropionic acid (215 mmole) were added 210 g of polyphosphoric acid and 250 ml of o-dichlorobenzene, and the mixture was stirred at 140° C. for 6 hours. The mixture was diluted with 300 ml of water, and the product was extracted with n-hexane and ether, dried and concentrated, and the residual concentrate thus obtained was distilled to give 27.3 g of 4-bromo-2-methylindan-1-one as a colorless oil (yield, 56%).

reactant | 3-(2-bromophenyl)-2-methylpropionic acid | 215 mmole, 52.5 g | BrC1=C(C=CC=C1)CC(C(=O)O)C | C10H11BrO2
reactant | o-dichlorobenzene | 250 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | water | 300 ml | O | H2O
product | 4-bromo-2-methylindan-1-one | 27.3 g | BrC1=C2CC(C(C2=CC=C1)=O)C | C10H9BrO
